US04863920
40.70 g of an equimolar mixture of butyltriphenylphosphonium bromide and sodium amide was stirred at room temperature for 15 minutes in 150 ml of tetrahydrofuran. 20.73 g (80 mmol) of 8-fluoro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxaldehyde was then added thereto, the mixture was stirred at room temperature for a further 1.5 hours, filtered and the filtrate was evaporated. After chromatography of the residue on silica gel while eluting with cyclohexane/ether/isopropanol (3:3:1) and recrystallization from ethyl acetate and n-hexane there was obtained 8-fluoro-4,5-dihydro-5-methyl-3-(1-pentenyl)-6H-imidazo[1,5-a][1,4]-benzodiazepin-6-one of melting point 150°-151°.

reactant | sodium amide | [NH2-].[Na+]
reactant | 8-fluoro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxaldehyde | 80 mmol, 20.73 g | FC=1C=CC2=C(C(N(CC=3N2C=NC3C=O)C)=O)C1 | C13H10FN3O2
catalyst | butyltriphenylphosphonium bromide | [Br-].C(CCC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 8-fluoro-4,5-dihydro-5-methyl-3-(1-pentenyl)-6H-imidazo[1,5-a][1,4]-benzodiazepin-6-one | FC=1C=CC2=C(C(N(CC=3N2C=NC3C=CCCC)C)=O)C1 | C17H18FN3O
